US08350038B2
Pyrido[1,2-a]pyrazine (2):
2-aminomethyl pyridine (10 mmol) was dissolved together with triethylamine (20 mmol) in THF (50 ml) and a solution of the corresponding bis-imidoylchloride (10 mmol) was added dropwise. Then the solution was refluxed for ca. 4 h and after cooling-down the solvent was removed under reduced pressure. The residue was washed with little cold methanol and subsequently, the residue was recrystallized from acetonitrile or THF.

reactant | 2-aminomethyl pyridine | 10 mmol | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 20 mmol | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Pyrido[1,2-a]pyrazine | C1=C2N(CC=N1)C=CC=C2 | C8H8N2
